US05101048
Preparation of 2-trifluoromethylphenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside (Example 13a)
If the procedure described in Preparation I is followed starting from 1.8 g (10.10-3 mol) of 2-trifluoromethylbenzenethiol, 2.55 g (10.10-3 mol) of mercuric cyanide (Hg(CN)2) and 3.95 g (11.10-3 mol) of 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide, 1.53 g (yield: 34%) of the expected product are obtained.

reactant | 2-trifluoromethylbenzenethiol | 10.10-3 mol, 1.8 g | FC(C1=C(C=CC=C1)S)(F)F | C7H5F3S
reactant | Hg(CN)2 | 10.10-3 mol, 2.55 g | [Hg](C#N)C#N
reactant | 2,3,4-tri-O-acetyl-5-thio-α-D-xylopyranosyl bromide | 11.10-3 mol, 3.95 g | C(C)(=O)O[C@H]1[C@H](SC[C@H]([C@@H]1OC(C)=O)OC(C)=O)Br | C11H15BrO6S
product | 2-trifluoromethylphenyl 2,3,4-tri-O-acetyl-1,5-dithio-β-D-xylopyranoside | 1.53 g, yield: 34% | C(C)(=O)O[C@H]1[C@H](SC2=C(C=CC=C2)C(F)(F)F)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C18H19F3O6S2
